US05105017
5-[4-(4-Acetyl-3-hydroxy-2-propylbenzyloxy)phenyl]-tetrazole
A solution of 19.0 g. of 4-(4-acetyl-3-hydroxy-2-propylbenzyloxy)benzonitrile, 13.0 g. of sodium azide, and 10.9 g. of ammonium chloride in 250 ml. of dimethylformamide was heated to 115° C. for eight hours. An additional 13.0 g. of sodium azide and 10.9 g. of ammonium chloride were added every 2.5 hours during this period. The reaction was stirred overnight at room temperature and then heated an additional six hours with more reagents being added. The reaction mixture was then evaporated under reduced pressure and the residue was dissolved in 800 ml. of water. The solution was made acidic with hydrochloric acid and the resulting precipitate was filtered. The precipitate was dissolved in lN sodium hydroxide and the solution was washed once with ethyl acetate. The basic solution was made acidic with hydrochloric acid and the precipitate was recovered by filtration. The precipitate was crystallized first from isopropyl alcohol/ethyl acetate/water and then recrystallized from isopropyl alcohol providing 10.3 g. of the desired title product, m.p. 203°-205° C., IR, NMR.

reactant | 4-(4-acetyl-3-hydroxy-2-propylbenzyloxy)benzonitrile | C(C)(=O)C1=C(C(=C(COC2=CC=C(C#N)C=C2)C=C1)CCC)O | C19H19NO3
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-[4-(4-Acetyl-3-hydroxy-2-propylbenzyloxy)phenyl]-tetrazole | C(C)(=O)C1=C(C(=C(COC2=CC=C(C=C2)C2=NN=NN2)C=C1)CCC)O | C19H20N4O3
